US08541414B2
4-(2-Ethylphenyl)-5-methoxy-2-methyl-3 (2H)-pyridazinone (Compound II-1)
To a mixture of 2.516 g of 4-chloro-5-methoxy-2-methyl-3 (2H)-pyridazinone, 2.575 g of 2-ethylphenylboronic acid and 3.333 g of sodium carbonate were added 30 mL of 1,4-dioxane and 20 mL of water. To the mixture were added 2.417 g of tetrabutylammonium bromide and 0.657 g of tetrakis(triphenylphosphine)palladium, and then under a nitrogen atmosphere, the resulting mixture was stirred and heated under reflux for 17 hours. After cooling, 50 mL of water was added to the reaction mixture, which was extracted with 100 mL of ethyl acetate and then 30 mL of ethyl acetate. The extracts were combined, washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The solid obtained was washed with a mixed solvent of ethyl acetate and hexane (1:2) to yield 3.238 g of the title compound as yellow crystals.

reactant | 4-chloro-5-methoxy-2-methyl-3 (2H)-pyridazinone | 2.516 g | ClC=1C(N(N=CC1OC)C)=O | C6H7ClN2O2
reactant | 2-ethylphenylboronic acid | 2.575 g | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
reactant | sodium carbonate | 3.333 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | tetrabutylammonium bromide | 2.417 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.657 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 4-(2-Ethylphenyl)-5-methoxy-2-methyl-3 (2H)-pyridazinone | 3.238 g | C(C)C1=C(C=CC=C1)C=1C(N(N=CC1OC)C)=O | C14H16N2O2
